US04476311
(B) 1-Benzyl-2-(3-methoxyphenyl)-5-oxopyrrolidin-3-carboxylic acid
To 450 ml. of xylene was added 143.3 gm of 3-methoxyphenylbenzylidenebenzylamine and 63.9 gm. of succinic anhydride. The solution was refluxed for 15 hours, cooled and extracted with saturated sodium bicarbonate solution. After washing the basic solution with ether, the aqueous phase was acidified with concentrated hydrochloric acid to provide a white gum. The gum was dissolved in ether, dried (Na2SO4), filtered and concentrated in vacuo to a semi-solid which was titurated with anhydrous ethyl ether and the resultant solid removed by filtration and discarded. Concentration in vacuo provided 18.5 g of the desired product as a gum.

reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 3-methoxyphenylbenzylidenebenzylamine | 143.3 gm | COC=1C=C(C=CC1)C(C1=CC=CC=C1)N=CC1=CC=CC=C1 | C21H19NO
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | ether | CCOCC | C4H10O
product | 1-Benzyl-2-(3-methoxyphenyl)-5-oxopyrrolidin-3-carboxylic acid | 18.5 g | C(C1=CC=CC=C1)N1C(C(CC1=O)C(=O)O)C1=CC(=CC=C1)OC | C19H19NO4
